US07262185B2
5-nitro-2-(4-propyl-4H-1,2,4-triazol-3-yl)methylthiopyridine (4.0 g), reduced iron (4.0 g), and calcium chloride (0.79 g) was added to 85% aqueous solution of ethanol (100 ml), and the mixture was refluxed for 3 hours. The reaction solution was filtered with Celite, and the solvent of the filtrate was distilled off. The residue was purified by basic silica gel column chromatography (elution solvent: methanol/ethyl acetate), to give 5-amino-2-(4-propyl-4H-1,2,4-triazol-3-yl)methylthiopyridine (3.3 g) as red oil.

reactant | 5-nitro-2-(4-propyl-4H-1,2,4-triazol-3-yl)methylthiopyridine | 4.0 g | [N+](=O)([O-])C=1C=CC(=NC1)SCC1=NN=CN1CCC | C11H13N5O2S
reactant | calcium chloride | 0.79 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-amino-2-(4-propyl-4H-1,2,4-triazol-3-yl)methylthiopyridine | 3.3 g | NC=1C=CC(=NC1)SCC1=NN=CN1CCC | C11H15N5S
